### ISSUE TITLE
Canonical doesn't use constructor of `structure`

### ISSUE THREAD

**Issue by JovanGerb** [chasenorman/CanonicalLean#30]
# Desired proof term

```
import Canonical
import Mathlib.Tactic

open Function

noncomputable example {α β : Type*} {f : α → β} (h_surj : Surjective f) (h_inj : Injective f) : Equiv α β := by
  exact ⟨
    f,
    fun a ↦ (h_surj a).choose,
    fun b ↦ h_inj (Exists.choose_spec (h_surj (f b))),
    fun a ↦ Exists.choose_spec (h_surj a)⟩
```

# Canonical invocation

```
example {α β : Type*} {f : α → β} (h_surj : Surjective f) (h_inj : Injective f) : Equiv α β := by
  canonical -- [Equiv.mk]
```

# Observations

The constructor `Equiv.mk` is not considered by `canonical`. This seems to be a general problem with inductives declared with `structure`.
